US04539577
Preparation of 2-(2-chlorobenzyloxy)acetanilide (Compound No. B in Table I)
2-Hydroxyacetanilide (15.1 parts) is added to methanol (60 parts). Into this mixture is further added a solution of sodium hydroxide (4.8 parts) in water (14 parts). The resulting mixture is kept at 0° to 5° C. and add dropwise 2-chlorobenzyl chloride (18.3 parts) within 30 minutes, and the reaction is continued for 2 hours at 0° to 5° C., for additional 6 hours at 30° to 40° C. and further for additional 2 hours at 65° C. After completion of the reaction, the reaction mixture is poured into cold water (250 parts) and is then filtered. The filter cake obtained is washed with water and the resulting white cake is dried at 80° C. to yield the intended product (22.3 parts) having melting point 130° to 132° C.

reactant | 2-Hydroxyacetanilide | OCC(=O)NC1=CC=CC=C1 | C8H9NO2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | water | O | H2O
product | 2-(2-chlorobenzyloxy)acetanilide | ClC1=C(COCC(=O)NC2=CC=CC=C2)C=CC=C1 | C15H14ClNO2
